US07271264B2
1-Bromo-2-(1-ethoxy-ethoxymethyl)4-fluoro-benzene
Dissolve commercially available (2-bromo-5-fluoro-phenyl)-methanol (4.8 g, 23.4 mmol) in methylene chloride (100 mL) and cool to 0° C. Add PPTS (590 mg, 2.3 mmol) followed by ethyl vinyl ether (3.4 mL, 35.1 mmol). Warm reaction to room temperature slowly after addition. After 4 hours, pour the reaction into saturated aqueous sodium bicarbonate and extract with methylene chloride. Dry with sodium sulfate, filter and concentrate in vacuo to yield 5.4 g (83%) of the title compound as a clear and colorless oil. 1H NMR (CDCl3) 37.47 (dd, J=8.6, 5.0 Hz, 1M), 7.27 (dd, J=9.6, 3.1 Hz, 1H), 6.87 (td, J=8.0, 3.1 Hz, 1H), 4.89 (q, J=5.5 Hz, 1H), 4.65 (d, J=13.8 Hz, 1H), 4.54 (d, J=13.8 Hz, 1H), 3.70 (m, 1H), 3.55 (m, 1H), 1.42 (d, J=5.5 Hz, 3H), 1.22 (t, J=7.2 Hz, 3H).

reactant | (2-bromo-5-fluoro-phenyl)-methanol | 23.4 mmol, 4.8 g | BrC1=C(C=C(C=C1)F)CO | C7H6BrFO
reactant | PPTS | 2.3 mmol, 590 mg | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
reactant | ethyl vinyl ether | 35.1 mmol, 3.4 mL | C(=C)OCC | C4H8O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 1-Bromo-2-(1-ethoxy-ethoxymethyl)4-fluoro-benzene | 5.4 g, 83% | BrC1=C(C=C(C=C1)F)COC(C)OCC | C11H14BrFO2
